US07060827B2
In a manner similar to the preparation of N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine, 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-methoxycarbonylbenzofuran-5-yl)-4-pyrimidinediamine upon LiOH treatment gave N2-(2-carboxybenzofuran-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.97 (bd, 2H), 7.60–7.44 (m, 4H), 7.20–7.05 (m, 3H), 6.69 (bd, 1H); 19F NMR (CD3OD): −21844; LCMS: ret. time: 16.77 min.; purity: 100%; MS (m/e): 381 (MH+).

reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)O)C1 | C23H23FN4O3
reactant | LiOH | [Li+].[OH-]
product | N2-(2-carboxybenzofuran-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(=O)(O)C=1OC2=C(C1)C=C(C=C2)NC2=NC=C(C(=N2)NC2=CC(=CC=C2)O)F | C19H13FN4O4
